US09388176B2
N-(4-isopropylphenyl)-6-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]pyridine-2-carboxamide
A mixture of 6-[2-(Methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid (600 mg, 1.98 mmol), 4-isopropylaniline (0.28 ml, 1.98 mmol) and DIEA (1.64 ml, 9.90 mmol) in DMF (10 ml) was treated with HATU (828 mg, 2.18 mmol) and the reaction mixture was stirred at room temperature for 3 hours. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was washed with water, dried (MgSO4), filtered and concentrated. Elution through a flash column (silica gel 60, 230-400 mesh, 1:1 hexanes:EtOAc) gave the title compound as an oil which crystallized on standing (804 mg, 97%).

reactant | 6-[2-(Methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid | 1.98 mmol, 600 mg | CSC=1N=CC2=C(N1)CCN(C2)C2=CC=CC(=N2)C(=O)O | C14H14N4O2S
reactant | 4-isopropylaniline | 1.98 mmol, 0.28 ml | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | DIEA | 9.90 mmol, 1.64 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.18 mmol, 828 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(4-isopropylphenyl)-6-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]pyridine-2-carboxamide | C(C)(C)C1=CC=C(C=C1)NC(=O)C1=NC(=CC=C1)N1CC2=C(N=C(N=C2)SC)CC1 | C23H25N5OS
